US05068356
N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-octylsuccinimide
A mixture of 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide (12.1 g, 41.1 mmol), 2-octylsuccinic anhydride (9.0 g, 41.1 mmol) and 20 ml of toluene was refluxed for one hour under a nitrogen atmosphere with the azeotropic removal of water (Dean-Stark assembly). The solvent was removed under vacuum while heating the reaction mass. 18.7 g of a very viscous, clear yellow liquid was obtained.

reactant | 3-(3,5-di-t-butyl-4-hydroxyphenyl)propanoic acid hydrazide | 41.1 mmol, 12.1 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
reactant | 2-octylsuccinic anhydride | 41.1 mmol, 9.0 g | C(CCCCCCC)C1C(=O)OC(C1)=O | C12H20O3
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-[3-(3,5-di-t-butyl-4-hydroxyphenyl)propanamido]-2-octylsuccinimide | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN1C(C(CC1=O)CCCCCCCC)=O | C29H46N2O4
